US07297713B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]butanamide
The title compound was prepared according to the general procedure for acylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using butyryl chloride (59 μL, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]butanamide (0.045 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | butyryl chloride | 0.55 mmol, 59 μL | C(CCC)(=O)Cl | C4H7ClO
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]butanamide | 0.045 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NC(CCC)=O | C16H17N3O
